US05744643
Preparation of 5-chloro-2-hydroxyaniline
A degassed solution of 10 mmol of 5-chloro-2-hydroxynitrobenzene (starting material) and 40 ml of xylene are placed in an autoclave (volume: 200 ml).0.125 mmol of BINAS (in the form of 0.72 g of an aqueous solution containing 0.173 mol of BINAS/kg of solution) as phosphine and 0.6 g (15 mmol) of NaOH, 41 ml of H2O and 0.25 mmol of PdCl2 are added. The pH is from 10 to 11.

reactant | 5-chloro-2-hydroxynitrobenzene | 10 mmol | ClC=1C=CC(=C(C1)[N+](=O)[O-])O | C6H4ClNO3
reactant | xylene | 40 ml | C=1(C(=CC=CC1)C)C | C8H10
reactant | phosphine | P | H3P
reactant | NaOH | 15 mmol, 0.6 g | [OH-].[Na+]
catalyst | PdCl2 | 0.25 mmol | Cl[Pd]Cl
solvent | H2O | 41 ml | O | H2O
product | 5-chloro-2-hydroxyaniline | ClC=1C=CC(=C(N)C1)O | C6H6ClNO
